2127-05-27 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Unable to place A-Line
   - Confirmed DNR/DNI with Health Car Proxy, no invasive procedures
   - Brief run of AF with RVR (120s), hemodynamically stable. Spontaneous
   conversion.
   Allergies:
   Ativan (Injection) (Lorazepam)
   Confusion/Delir
   Prochlorperazine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2127-5-26**] 08:00 PM
   Fluconazole - [**2127-5-26**] 08:00 PM
   Cefipime - [**2127-5-27**] 12:00 AM
   Infusions:
   Phenylephrine - 0.7 mcg/Kg/min
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2127-5-26**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-5-27**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 89 (67 - 93) bpm
   BP: 114/67(78) {94/36(51) - 128/67(81)} mmHg
   RR: 11 (10 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (7 - 15)mmHg
   Total In:
                                                                  3,561 mL
                                                                    252 mL
   PO:
                                                                    180 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  3,381 mL
                                                                    192 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    500 mL
   Urine:
                                                                    750 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,811 mL
                                                                   -248 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, slightly dry MM
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Extremities: Right: 2+, Left: 2+, teds stockings in place
   Skin:  Warm, no rashes
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): person, place but not date, Movement: Not assessed,
   Tone: Not assessed, occasionally makes statements that do not make
   sense, appears delirious
   Labs / Radiology
   105 K/uL
   9.2 g/dL
   101 mg/dL
   0.7 mg/dL
   17 mEq/L
   3.8 mEq/L
   12 mg/dL
   113 mEq/L
   144 mEq/L
   26.3 %
   13.4 K/uL
        [image002.jpg]
                             [**2127-5-26**]  02:44 PM
                             [**2127-5-27**]  05:28 AM
   WBC
   11.0
   13.4
   Hct
   26.2
   26.3
   Plt
   116
   105
   Cr
   0.7
   0.7
   TropT
   0.09
   Glucose
   67
   101
   Other labs: PT / PTT / INR:14.1/36.4/1.2, CK / CKMB /
   Troponin-T:13/4/0.09, ALT / AST:17/30, Alk Phos / T Bili:94/0.6, Lactic
   Acid:6.4 mmol/L, LDH:474 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   61 year old male with diffuse large B cell lymphoma, s/p multiple doses
   of chemotherapy with hospital course complicated by afib with RVR,
   hypercalcemia, and upper extremity DVT who is being transferred to [**Hospital Unit Name 44**]
   with afib with RVR in setting of hypotension.
   .
   # Atrial fibrillation - Has been recurrent since initial diagnosis of
   DLBCL per wife and did require ICU admission during last hospital
   course for similar reasons (hypotension, afib with RVR). Also has prior
   h/o malignant pericardial tamponade. Has not been diuresed for several
   days on the floor; however, pt with poor po intake and intravascular
   hypovolemia may be contributing. Other considerations for recurrent
   afib are possibility of infection, recurrent lymphoma involvement of
   pericardium, inability to tolerate consistent dosing of beta-blockers
   on the floor due to hypotension over the weekend, or PE with RV
   overload --> increased RA filling pressures. Doubt hyperthyroid state.
   Now back in NSR s/p amiodarone load, IVFs, neo gtt.
   - Attempt to wean neo gtt. Pt and wife have declined further attempts
   at aline for now.
   - IVF boluses prn to maintain urine output, keep MAPs > 60.
   - Check TTE.
   - Blood cxs peripherally and from central line.
   - Empiric abx coverage with IV vancomycin, cefepime for now.
   - Unable to resite central line to RIJ for now as bedside U/S
   demonstrated thrombus in RIJ vein. If spikes fever and/or develops
   worsening hemodynamics, will need to try to place L SCV line or femoral
   lines if still on pressors. If off of pressors, can try to place PIVs.
   - Hold metoprolol for now given hypotension.
   - Telemetry.
   - Consider starting po amiodarone in am.
   .
   # Hypotension - In setting of afib with RVR, poor po intake, possible
   sepsis although no fevers.
   - Continue broad spectrum abxs as above, f/u cx data and narrow abxs as
   appropriate.
   - Wean off neo gtt as tolerated with IVF boluses as above.
   - TTE
   - No aline for now per pt and wife's wishes.
   .
   #. h/o DVTs - Has known h/o bilateral LE DVTs and RUE DVT, s/p IVC
   filter [**2-24**]. On enoxaparin, which was last held on [**5-7**] when plts 20K.
   Possible that pt may have PE given recent afib with RVR, hypotension.
   - Check TTE to r/o RV strain.
   - Continue enoxaparin at 60 mg SQ [**Hospital1 **].
   - Per BMT, would hold enoxaparin if plts < 20K.
   .
   #. Leukocytosis - WBC up to 11K from 5.6 on AM labs. Likely in setting
   of stress dose steroids, possibly secondary to stress reaction from AM
   events, or due to developing infection.
   - Monitor fever curve.
   - Follow-up bld cxs, UA
   .
   # Metabolic anion gap acidosis - AG 18, has been increasing over past
   few days. Likely secondary to lactic acidosis that may be secondary to
   hypoperfusion vs. increased cell death/turnover from recurrent
   lymphoma, although this has not yet been verified by biopsy.
   - Check venous lactate.
   - Closely monitor for worsening gap.
   .
   #. Thrombocytopenia - Per BMT, because pt requires lovenox for
   treatment and prevention of further DVTs, the patient's platelet count
   should be kept greater than 50K.
   - Follow plt count and transfuse for > 50K.
   .
   #. Anemia - Likely related to anemia of chronic disease. Less likely
   that anemia is [**1-20**] chemo nadir at this point as last chemo was 1 month
   ago.
   - Follow Hct, transfuse for less than 24 per BMT.
   - Keep T&S active.
   - Guaiac stools.
   .
   #. Nausea - Per BMT note, etiology unclear. Pt not currently
   complaining of this. Evaluated by GI and neurology on previous
   admission. GI recommended continuing with max dose reglan and an
   outpatient esophagael motility study.
   - reglan 2.5 mg PO tid with meals and prn
   - zyprexa 5 mg ODT TID prn
   - IV zofran prn
   .
   #. Back pain - Evaluated by pain service on last admission. Not
   currently complaining of back pain. Continue methadone.
   .
   #. GERD - Continue pantoprazole.
   .
   #. FEN - regular, low Ca, caffeine-free diet
   .
   #. PPX - acyclovir, fluconazole, pantoprazole; bowel regimen prn. On
   treatment doses of enoxaprin for known DVTs
   .
   # ACCESS - Left IJ TLC placed by IR on [**2127-4-23**].
   .
   # Full Code
 DNR/DNI, HCP is wife [**Name (NI) 263**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-5-26**] 02:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-05-28 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2127-5-27**] 11:00 AM
 EKG - At [**2127-5-27**] 04:37 PM
 EKG - At [**2127-5-27**] 05:51 PM
 EKG - At [**2127-5-28**] 01:30 AM
 EKG - At [**2127-5-28**] 02:00 AM
   [**5-27**]
   - TTE done - LVEF 60%, no change from [**2127-5-14**]
   - started digoxin for afib rate control
   - tried to wean phenylephrine gtt, but mild tachycardia and slight
   hypotension, so restarted on lowest dose, reattempting the wean
   overnight
   - episodes of afib w RVR overnight --> given digoxin .250 IV x1, then
   metoprolol 5mg IV x 6 (30mg total), repleted K/Mg, 1L NS bolus, 1 amp
   bicarb (bicarb 15 on stat labs)
   Allergies:
   Ativan (Injection) (Lorazepam)
   Confusion/Delir
   Prochlorperazine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2127-5-27**] 08:00 PM
   Fluconazole - [**2127-5-27**] 08:00 PM
   Cefipime - [**2127-5-28**] 12:00 AM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2127-5-27**] 08:00 PM
   Metoprolol - [**2127-5-28**] 03:25 AM
   Haloperidol (Haldol) - [**2127-5-28**] 03:30 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2127-5-28**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-5-28**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.9
   HR: 114 (77 - 144) bpm
   BP: 102/50(63) {79/39(53) - 136/85(91)} mmHg
   RR: 9 (9 - 18) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 4 (4 - 4)mmHg
   Total In:
                                                                  1,769 mL
                                                                  1,794 mL
   PO:
                                                                    720 mL
   TF:
   IVF:
                                                                  1,049 mL
                                                                  1,744 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    220 mL
   Urine:
                                                                  1,300 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    469 mL
                                                                  1,574 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///15/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL, slightly dry MM
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Extremities: Right: 2+, Left: 2+, teds stockings in place
   Skin:  Warm, no rashes
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): person, place but not date, Movement: Not assessed,
   Tone: Not assessed, occasionally makes statements that do not make
   sense, appears delirious
   Labs / Radiology
   105 K/uL
   9.2 g/dL
   151 mg/dL
   0.8 mg/dL
   15 mEq/L
   3.8 mEq/L
   17 mg/dL
   112 mEq/L
   143 mEq/L
   26.3 %
   13.4 K/uL
        [image002.jpg]
                             [**2127-5-26**]  02:44 PM
                             [**2127-5-27**]  05:28 AM
                             [**2127-5-28**]  01:27 AM
   WBC
   11.0
   13.4
   Hct
   26.2
   26.3
   Plt
   116
   105
   Cr
   0.7
   0.7
   0.8
   TropT
   0.09
   Glucose
   67
   101
   151
   Other labs: PT / PTT / INR:14.1/36.4/1.2, CK / CKMB /
   Troponin-T:13/4/0.09, ALT / AST:17/30, Alk Phos / T Bili:94/0.6, Lactic
   Acid:6.4 mmol/L, LDH:474 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   Assessment and Plan
   61M w DLBCL s/p multiple doses of chemotherapy w hospital course c/b
   AF/RVR, hypercalcemia, and upper extremity DVT, who is being
   transferred to [**Hospital Unit Name 44**] with afib with RVR in the setting of hypotension.
   # Hypotension: unclear etiology, likely in the setting of afib with
   RVR, poor po intake, possible sepsis although no fevers.
   - vancomycin and cefepime for broad-coverage
   - attempt to wean phenylephrine gtt
   - TTE
   - no aline for now per pt and wife's wishes.
   # Atrial fibrillation w RVR: recurrent in the setting of hypovolemia vs
   malignant pericardial effusions vs infection. Converted overnight to
   NSR s/p amiodarone load, IVFs, phenylephrine gtt.
   - rate control w digoxin
   - consider starting po amiodarone in am.
   - attempt to wean phenylephrine gtt
   - IVF boluses prn to maintain urine output, keep MAPs > 60.
   - Check TTE
   - f/u bl cxs
   - vancomycin and cefepime for broad-coverage
   - Telemetry
   - Unable to resite central line to RIJ for now as bedside U/S
   demonstrated thrombus in RIJ vein. If spikes fever and/or develops
   worsening hemodynamics, will need to try to place L SCV line or femoral
   lines if still on pressors. If off of pressors, can try to place PIVs.
   # h/o DVTs - Has known h/o bilateral LE DVTs and RUE DVT, s/p IVC
   filter [**2-24**]. On enoxaparin, which was last held on [**5-7**] when plts 20K.
   Possible that pt may have PE given recent afib with RVR, hypotension.
   - Check TTE to r/o RV strain.
   - Continue enoxaparin at 60 mg SQ [**Hospital1 **].
   - Per BMT, would hold enoxaparin if plts < 20K.
   .
   # Leukocytosis - WBC up to 11K from 5.6 on AM labs. Likely in setting
   of stress dose steroids, possibly secondary to stress reaction from AM
   events, or due to developing infection.
   - Monitor fever curve.
   - Follow-up bld cxs, UA
   .
   # Metabolic anion gap acidosis - AG 18, has been increasing over past
   few days. Likely secondary to lactic acidosis that may be secondary to
   hypoperfusion vs. increased cell death/turnover from recurrent
   lymphoma, although this has not yet been verified by biopsy.
   - Check venous lactate.
   - Closely monitor for worsening gap.
   .
   #. Thrombocytopenia - Per BMT, because pt requires lovenox for
   treatment and prevention of further DVTs, the patient's platelet count
   should be kept greater than 50K.
   - Follow plt count and transfuse for > 50K.
   .
   #. Anemia - Likely related to anemia of chronic disease. Less likely
   that anemia is [**1-20**] chemo nadir at this point as last chemo was 1 month
   ago.
   - Follow Hct, transfuse for less than 24 per BMT.
   - Keep T&S active.
   - Guaiac stools.
   .
   #. Nausea - Per BMT note, etiology unclear. Pt not currently
   complaining of this. Evaluated by GI and neurology on previous
   admission. GI recommended continuing with max dose reglan and an
   outpatient esophagael motility study.
   - reglan 2.5 mg PO tid with meals and prn
   - zyprexa 5 mg ODT TID prn
   - IV zofran prn
   .
   #. Back pain - Evaluated by pain service on last admission. Not
   currently complaining of back pain. Continue methadone.
   .
   #. GERD - Continue pantoprazole.
   .
   #. FEN - regular, low Ca, caffeine-free diet
   .
   #. PPX - acyclovir, fluconazole, pantoprazole; bowel regimen prn. On
   treatment doses of enoxaprin for known DVTs
   .
   # ACCESS - Left IJ TLC placed by IR on [**2127-4-23**].
   .
   # Full Code
 DNR/DNI, HCP is wife [**Name (NI) 263**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-5-26**] 02:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: